US06100421
To 100 ml toluene, was added 2,4-dichloro-3-formylbenzoate in an amount of 25.72 g, and the resulting mixture was then added with nitroethane in an amount of 39.0 g and n-butylamine in an amount of 1.5 g and was allowed to a reaction for 21 hours under reflux. The reacted-mixture was poured into ice water, and the mixture was then extracted with ethyl acetate, then the ethyl acetate layer was washed with 1N-hydrochloric acid solution and saturated saline solution in turn and dried with anhydrous magnesium sulfate. The solvent in the layer was distillated out under reduced pressure to obtain methyl 2,4-dichloro-3-(2-nitro-1-propenyl)benzoate in an amount of 34.9 g. The obtained-product in an amount of 30.1 g was then added into a mixed-solvent composed of 120 ml toluene and 360 ml water without taking a purification process for it, and the resulting mixture was fed dropwise with concentrated sulfuric acid in an amount of 104 g at 80° C. following to the addition of both iron powder in an amount of 20.8 g and ferric chloride in an amount of 0.4 g. After the dropping, the mixture was allowed to a reaction for 1 hour under reflux. The reacted-mixture was then allowed to cooling and added with ethyl acetate, and insoluble materials therein were separated by filtration. The organic layer obtained was washed with water and saturated saline solution in turn and dried with anhydrous magnesium sulfate. The solvent in layer was concentrated under reduced pressure, and the residue obtained was purified by using a silica gel column chromatography to obtain 2,4-dichloro-3-(2-oxopropyl)benzoate in an amount of 19.53 g. nD22 1.5537.

reactant | 2,4-dichloro-3-formylbenzoate | ClC1=C(C(=O)[O-])C=CC(=C1C=O)Cl
reactant | nitroethane | [N+](=O)([O-])CC | C2H5NO2
reactant | n-butylamine | C(CCC)N | C4H11N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2,4-dichloro-3-(2-nitro-1-propenyl)benzoate | ClC1=C(C(=O)OC)C=CC(=C1C=C(C)[N+](=O)[O-])Cl | C11H9Cl2NO4
